US08021822B2
Synthesis of 4-tert-butylphenyldiphenylsulfonium 2-(1-adamantanecarbonyloxy)-1,1-difluoroethanesulfonate [PAG-4]
In 100 g of dichloromethane were dissolved 10 g (0.02 mole) of sodium 2-(1-adamantanecarbonyloxy)-1,1-difluoro-ethanesulfonate (purity 70%) and 80 g (0.02 mole) of a 4-tert-butylphenyldiphenylsulfonium bromide aqueous solution. The organic layer was separated, washed three times with 20 g of water, and concentrated. Diethyl ether was added to the residue for recrystallization, obtaining the target compound as white crystals. 11 g (yield 86%).

reactant | sodium 2-(1-adamantanecarbonyloxy)-1,1-difluoro-ethanesulfonate | 0.02 mole, 10 g | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC(S(=O)(=O)[O-])(F)F.[Na+]
reactant | 4-tert-butylphenyldiphenylsulfonium bromide | 0.02 mole, 80 g | [Br-].C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | 100 g | ClCCl | CH2Cl2
product | 4-tert-butylphenyldiphenylsulfonium 2-(1-adamantanecarbonyloxy)-1,1-difluoroethanesulfonate | yield 86% | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC(S(=O)(=O)[O-])(F)F.C(C)(C)(C)C2=CC=C(C=C2)[S+](C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C22H23S.C13H18F2O5S/c1-22(2,3)18-14-16-21(17-15-18)23(19-10-6-4-7-11-19)20-12-8-5-9-13-20;14-13(15,21(17,18)19)7-20-11(16)12-4-8-1-9(5-12)3-10(2-8)6-12/h4-17H,1-3H3;8-10H,1-7H2,(H,17,18,19)/q+1;/p-1
